US05245039
Under nitrogen atmosphere and stirring, a MeOH solution (15 ml) of g 0.85 of (+)2-ethylthiomethyl-3-carboethoxy-5-carbomethoxy-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine, cooled at 30° C. is treated with NaH2PO4 (g 1.45) and with Na/Hg amalgam (2.64 g) (10% in Na). After 15 minutes the solution is filtered and evaporated to a small volume under vacuum. The residue is partitioned between water (ml 20) and AcOEt (3×30 ml), the organic phases are collected to give after the usual work-up 0.56 g of (+)-2,6-dimethyl-4-(3-chlorophenyl)-3-carboethoxy-5-carbomethoxy-1,4-dihydropyridine [α]D =+5.5°; c=4.1 CH2Cl2.

reactant | (+)2-ethylthiomethyl-3-carboethoxy-5-carbomethoxy-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine | C(C)SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)Cl)C(=O)OC)C | C20H24ClNO4S
solvent | MeOH | 15 ml | CO | CH4O
product | (+)-2,6-dimethyl-4-(3-chlorophenyl)-3-carboethoxy-5-carbomethoxy-1,4-dihydropyridine | 0.56 g | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)Cl)C(=O)OC)C | C18H20ClNO4
